US05324747
A mixture of 2.9 g of 3,4-bis[(1-oxodecyl)oxy]nitrobenzene and 0.5 g of 10% palladium on carbon in 50 ml of ethyl acetate and 10 ml of THF was stirred in a hydrogen atmosphere at room temperature for 5 hours when uptake ceased. The catalyst was removed by filtration and the filtrate was concentrated to an oil which was crystallized from ethyl acetate-hexane to give 2.5 g (92% yield, mp 44°-46°) of 3,4-bis[(1-oxodecyl)oxy]benzenamine.

reactant | 3,4-bis[(1-oxodecyl)oxy]nitrobenzene | 2.9 g | O=C(CCCCCCCCC)OC=1C=C(C=CC1OC(CCCCCCCCC)=O)[N+](=O)[O-] | C26H41NO6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,4-bis[(1-oxodecyl)oxy]benzenamine | 2.5 g, 92% yield | O=C(CCCCCCCCC)OC=1C=C(C=CC1OC(CCCCCCCCC)=O)N | C26H43NO4
